US06821980B1
(2ad) 5-(3′-Amino-2,6-diethoxy-4′-methyl-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine
5-(2,6-Diethoxy-4′-methyl-3′-nitro-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine (105 mg; 0.25 mmol) is dissolved in acetic acid conc. (6 ml), water (0.3 ml) and ethanol (1.5 ml) and hydrogenated over Pd/C 10% (85 mg). The catalyst is then filtered off with suction and rinsed thoroughly with ethanol and the solvent is evaporated off. The residue is taken up in water (20 ml) and the pH is adjusted to approx. 9-10 with NH4OH conc., whereupon the product precipitates out. After stirring for 30 minutes, the product which has precipitated out is filtered off with suction, washed with water and dried under a high vacuum.

reactant | 5-(2,6-Diethoxy-4′-methyl-3′-nitro-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 0.25 mmol, 105 mg | C(C)OC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OCC)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C22H25N5O4
reactant | water | 0.3 ml | O | H2O
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 85 mg | [Pd] | Pd
product | 5-(3′-Amino-2,6-diethoxy-4′-methyl-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | NC=1C=C(C=CC1C)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OCC | C22H27N5O2
